2105-12-07 12:32:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient with BIPAP required for ventilatory support
   24 Hour Events:
 URINE CULTURE - At [**2105-12-6**] 08:30 AM
 URINE CULTURE - At [**2105-12-6**] 02:30 PM
   also U/A sent
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Cefaclor
   Increased Heart
   Last dose of Antibiotics:
   Levofloxacin - [**2105-12-6**] 10:26 AM
   Piperacillin/Tazobactam (Zosyn) - [**2105-12-7**] 05:45 AM
   Vancomycin - [**2105-12-7**] 08:05 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Tachycardia
   Flowsheet Data as of  [**2105-12-7**] 12:16 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 35.3
C (95.6
   HR: 108 (105 - 116) bpm
   BP: 141/79(91) {78/42(45) - 146/89(97)} mmHg
   RR: 19 (12 - 30) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
             Total In:
                                                                  2,886 mL
                                                                  1,000 mL
   PO:
                                                                  1,270 mL
                                                                    340 mL
   TF:
   IVF:
                                                                  1,616 mL
                                                                    660 mL
   Blood products:
   Total out:
                                                                  1,380 mL
                                                                    720 mL
   Urine:
                                                                  1,380 mL
                                                                    720 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,506 mL
                                                                    280 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 1,097 (450 - 1,097) mL
   PS : 15 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 60%
   PIP: 21 cmH2O
   SpO2: 92%
   ABG: ///32/
   Ve: 8.8 L/min
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   , Diminished: )
Exam most notable for persistent and diffuse ronchi
   consistent with persistent significant airway secretions.
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.9 g/dL
   325 K/uL
   96 mg/dL
   1.0 mg/dL
   32 mEq/L
   3.9 mEq/L
   19 mg/dL
   98 mEq/L
   139 mEq/L
   29.2 %
   29.5 K/uL
        [image002.jpg]
                             [**2105-12-4**]  08:53 PM
                             [**2105-12-5**]  02:50 AM
                             [**2105-12-5**]  06:32 AM
                             [**2105-12-6**]  05:00 AM
                            [**2105-12-7**]  03:29 AM
   WBC
   39.0
   33.5
   29.5
   Hct
   34.1
   30.7
   29.2
   Plt
   355
   327
   325
   Cr
   1.6
   1.3
   1.0
   TropT
   0.21
   0.07
   TCO2
   26
   27
   Glucose
   156
   116
   96
   Other labs: PT / PTT / INR:14.3/32.5/1.2, CK / CKMB /
   Troponin-T:276/5/0.07, Differential-Neuts:94.0 %, Band:0.0 %, Lymph:0.0
   %, Mono:5.0 %, Eos:1.0 %, Ca++:9.5 mg/dL, Mg++:1.9 mg/dL, PO4:3.4 mg/dL
   Microbiology: No new culture results
   Assessment and Plan
   64 yo female with history of COPD admit with acute respiratory failure
   in the setting of chronic obstructive lung disease and lung cancer. The
   primary insult for worsening may well be infectious in the setting of
   substantial elevation in WBC count.
 .H/O CANCER (MALIGNANT NEOPLASM), LUNG
   -Palliative care infor evaluation today
   -Continued active participation of patient in her plan of care has been
   an asset
sister in today for visit.
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   -Levofloxacin/Vanco/Zosyn for post obstructive pneumonia
   -Pred 60mg/d
decrease to 40mg today
   -Spiriva
   -BIPAP to continue and hope to wean to O2 with BIPAP used as needed
 HEART FAILURE (CHF), SYSTOLIC, ACUTE
   -Acute NSTEMI documented
   -Will continue with ASA and LIpitor
   ICU Care
   Nutrition: Clears where possible between BIPAP and continue with IVF
   Glycemic Control:
   Lines:
   20 Gauge - [**2105-12-5**] 02:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin-refused this morning
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: Patient and her sister were updated in full
   in regards to clinical course the current plans are to move towards
   hospice care in a setting consistent with the patient wishes.
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 45 minutes

2105-12-08 04:55:00 Physician Resident Progress Note
Chief Complaint: [**Known lastname 1930**]
   24 Hour Events:
 Dirrhea -> STOOL CULTURE - At [**2105-12-8**] 02:25 AM
   CDiff sample sent [**2-28**] recent loose/inc stools
 D/C bipap to high-flow face mask for short time b/c of patient
   discomfort with bipap mask -> pt desaturated to low 80
s, gave Morphine
   and patient able to tolerate bipap again
 Seen by palliative care, patient wants to continue current treatments
   including chemotherapy when pt discharged.
   -decreased prednisone to 40 mg q daily, replaced with solumedrol today.
   -Good urine output
   -Beta blockade deferred given patient's severe COPD
   -Patient did not tolerate am PO meds including prednisone
   Allergies:
   Cefaclor
   Increased Heart
   Last dose of Antibiotics:
   Levofloxacin - [**2105-12-6**] 10:26 AM
   Vancomycin - [**2105-12-7**] 08:05 AM
   Piperacillin/Tazobactam (Zosyn) - [**2105-12-8**] 12:11 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-12-8**] 04:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 35.3
C (95.5
   HR: 113 (108 - 120) bpm
   BP: 140/83(98) {101/51(74) - 150/98(113)} mmHg
   RR: 20 (16 - 26) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
             Total In:
                                                                  2,288 mL
                                                                    279 mL
   PO:
                                                                    700 mL
             TF:
   IVF:
                                                                  1,588 mL
                                                                    279 mL
   Blood products:
   Total out:
                                                                  1,885 mL
                                                                    205 mL
   Urine:
                                                                  1,885 mL
                                                                    205 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    403 mL
                                                                     74 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 843 (362 - 1,097) mL
   PS : 15 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 60%
   PIP: 21 cmH2O
   SpO2: 95%
   ABG: ////
   Ve: 6.4 L/min
   Physical Examination
   Gen: Awake and alert, answering all questions appropriately, able to
   speak in [**3-1**] word sentences, states she is breathing much better today.
   HEENT: NC AT BIPAP mask in place
   CV: unable to auscultate over lung sounds
   Lungs: diffuse wheezing, prolonged expiratory phase.
   Abd: obese, multiple old surgical scars, no tenderness, BS+
   Ext: no significant edema, no clubbing or cyanosis, 2+ DP and radial
   pulses B/L
   Labs / Radiology
   335 K/uL
   10.5 g/dL
   96 mg/dL
   1.0 mg/dL
   32 mEq/L
   3.9 mEq/L
   19 mg/dL
   98 mEq/L
   139 mEq/L
   31.1 %
   29.7 K/uL
        [image002.jpg]
                             [**2105-12-4**]  08:53 PM
                             [**2105-12-5**]  02:50 AM
                             [**2105-12-5**]  06:32 AM
                             [**2105-12-6**]  05:00 AM
                            [**2105-12-7**]  03:29 AM
                            [**2105-12-8**]  04:35 AM
   WBC
   39.0
   33.5
   29.5
   29.7
   Hct
   34.1
   30.7
   29.2
   31.1
   Plt
   355
   327
   325
   335
   Cr
   1.6
   1.3
   1.0
   TropT
   0.21
   0.07
   TCO2
   26
   27
   Glucose
   156
   116
   96
   Other labs: Ca++:9.4 mg/dL, Mg++:1.8 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   A/P: Mrs. [**Known lastname 1930**] is a 64 yo F with PMH of COPD, stage III non small
   cell lung cancer undergoing chemotherapy outpatient who presented with
   hypoxic respiratory failure likely [**2-28**] post obstructive pneumonia.
   Patient with a Hx of MRSA and pseudomonas pneumonia.
   # Hypoxic Respiratory failure - likely [**2-28**] post obstructive pneumonia
   as seen on CXR.  ABG with significant AA gradient given PaO2 of 64 on
   70% FIO2, representing shunt physiology.  Patient seems to be improving
   on anbiotic therapy.
   -treat PNA broadly with [**Doctor Last Name **], Zosyn, Levo given significant bandemia,
   h/o MRSA and pseudomonas, and hypotension requiring pressors at OSH
   -continue with home regimen of advair, spiriva, xopenex; although
   patient is refusing some of these meds
   -decrease prednisone to 40 mg PO q daily, pt does not seem to have
   significant component of COPD exacerbation given stable CO2
   - IV solumedrol today to replace po prednisone b/c pt could not take po
   meds this am
   - continue bipap
   - continue to assess patient comfort as a goal of treatment; can use
   morphine to relieve air hunger as needed
   - f/u blood cx
   - Dr. [**Last Name (STitle) 65**] aware of admission
   #Non-small cell lung ca - she has metal stent in place to open up
   obstruction caused by the tumor.  Getting chemo currently.
   -Dr. [**Last Name (STitle) 1932**] emailed to notify of admission
   -Follow palliative care recs regarding pain management
   #NSTEMI - most likely [**2-28**] demand ischemia in the setting of severe
   hypoxia and early sepsis.   Cardiac enzymes mildly elevated at 0.21,
   now decreased.
   -ASA 325mg
   -Continue atorvastatin
   -hold off on BB, given hypotension and COPD
   -lipitor 80mg daily
   #Elevated WBC  - likely [**2-28**] infection although leukocytosis could also
   be in part due to steroids.  UCx negative
   f/u sputum, blood cultures
   -antibiotics as above
   -monitor WBC
   #Hypotension - requiring levophed at the OSH which was weaned off on
   arrival to MICU.  Likely [**2-28**] sepsis given significant bandemia and post
   obstructive PNA.  No longer requiring Levophed.
   -gentle IVF if needed
   #Acute Renal Failure - likely prerenal given acute
   infection/dehydration. Cr improved
 1.0 today.
   -gently IVF (given report of EF 35% at OSH)
   -monitor creatinine
   -renally dose all meds.
   -Check vanco trough if renal function remains depressed.
   #Depression
 continue Zoloft and effexor (renally dose)
   #Prophylaxis: pneumoboots, Famotidine, bowel reg if needed
   #FEN: IVF if unable to tolerate POs due to mask.  Start maintenance
   fluids.
   #Code Status: DNR/DNI.  Palliative care consult complete.  SW consult
   for tomorrow to discuss financial issues (patient requested).
   Continuing to address goals of care and patient requests.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2105-12-5**] 02:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2105-12-08 12:16:00 Physician Attending Progress Note
Chief Complaint: respiratory Failure--secondary to-->
   Lung Cancer
   COPD
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2105-12-8**] 12:00 AM
   per request
 NON-INVASIVE VENTILATION - STOP [**2105-12-8**] 02:00 AM
   per request
 STOOL CULTURE - At [**2105-12-8**] 02:25 AM
   CDiff sample sent [**2-28**] recent loose/inc stools
   Palliative Care in for consultation
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Cefaclor
   Increased Heart
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2105-12-8**] 06:30 AM
   Vancomycin - [**2105-12-8**] 08:15 AM
   Levofloxacin - [**2105-12-8**] 10:30 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2105-12-8**] 10:40 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2105-12-8**] 12:06 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.2
C (97.2
   HR: 118 (109 - 129) bpm
   BP: 133/70(84) {101/51(74) - 150/109(117)} mmHg
   RR: 19 (16 - 31) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  2,288 mL
                                                                    932 mL
   PO:
                                                                    700 mL
             TF:
   IVF:
                                                                  1,588 mL
                                                                    932 mL
   Blood products:
   Total out:
                                                                  1,885 mL
                                                                    515 mL
   Urine:
                                                                  1,885 mL
                                                                    515 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    403 mL
                                                                    417 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 736 (324 - 843) mL
   PS : 15 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 100%
   PIP: 20 cmH2O
   SpO2: 94%
   ABG: ///32/
   Ve: 7.9 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Wheezes : , Diminished: ),
   Difficult Exam
   Abdominal: Soft, Non-tender
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.5 g/dL
   335 K/uL
   97 mg/dL
   0.9 mg/dL
   32 mEq/L
   3.8 mEq/L
   18 mg/dL
   98 mEq/L
   140 mEq/L
   31.1 %
   29.7 K/uL
        [image002.jpg]
                             [**2105-12-4**]  08:53 PM
                             [**2105-12-5**]  02:50 AM
                             [**2105-12-5**]  06:32 AM
                             [**2105-12-6**]  05:00 AM
                            [**2105-12-7**]  03:29 AM
                            [**2105-12-8**]  04:35 AM
   WBC
   39.0
   33.5
   29.5
   29.7
   Hct
   34.1
   30.7
   29.2
   31.1
   Plt
   355
   327
   325
   335
   Cr
   1.6
   1.3
   1.0
   0.9
   TropT
   0.21
   0.07
   TCO2
   26
   27
   Glucose
   156
   116
   96
   97
   Other labs: PT / PTT / INR:14.3/32.5/1.2, CK / CKMB /
   Troponin-T:276/5/0.07, Differential-Neuts:94.0 %, Band:0.0 %, Lymph:0.0
   %, Mono:5.0 %, Eos:1.0 %, Ca++:9.4 mg/dL, Mg++:1.8 mg/dL, PO4:3.8 mg/dL
   Imaging: No new CXR
   Assessment and Plan
   64 yo female with recurrent and now stage III lung Ca (NSCCA) and COPD
   now admit with post obstructive pneumonia.  She this morning is having
   worsening respiratory distress with increased tachypnea and inability
   to fully clear secretions.  She will need a combination of relief of
   respiratory discomfort and support of ventilation.
   Respiratory Failure-
   -BIPAP as tolerated
   -O2 as needed when BIPAP off
   -Concern is for worsening in the setting of inability to clear
   pneumonia with extensive malignancy
   -Levofloxacin for pneumonia
   -She is having worsening dyspnea in the setting of underlying disease
   making po intake difficult and may need to change to IV medications
   -Repeat CXR given clinical worsening
   COPD With Acute Exacerbation-
   -Predsnisone to 40mg/d
   -Continue with nebs on standing basis and PRN for worsening wheezing
   -BIPAP again may help support patient tolerance of treamtent
   -Zopinex/Atrovent
   -Change to IV steroid dosing
   Lung Cancer
   -Supportive care as above
   -Palliative care in to consult on possibilities for treatment going
   forward in regards to hospice
   -Dr. [**Last Name (STitle) 65**] updated on patient clinical course by myself
 DIARRHEA
 .H/O CANCER (MALIGNANT NEOPLASM), LUNG
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 HEART FAILURE (CHF), SYSTOLIC, ACUTE
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2105-12-5**] 02:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: Family will need to be updated in the setting
   of worsening clinical decline.
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2105-12-09 05:58:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Steroids changed to IV because pt not taking Pos
   Experienced episode of acute SOB yesterday morning
   On facemask during the day, more comfortable on bipap overnight
   Getting PRN morphine for discomfort (2mg q6 hours PRN)
   Palliative care saw her yesterday but was not able to speak with her,
   will be back today
   Mg repleted
   CDiff neg x1 -> no more diarrhea
   Allergies:
   Cefaclor
   Increased Heart
   Last dose of Antibiotics:
   Vancomycin - [**2105-12-8**] 08:15 AM
   Levofloxacin - [**2105-12-8**] 10:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2105-12-8**] 06:12 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2105-12-8**] 10:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-12-9**] 05:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36
C (96.8
   HR: 115 (111 - 128) bpm
   BP: 143/74(91) {113/56(71) - 146/109(117)} mmHg
   RR: 16 (16 - 26) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
             Total In:
                                                                  2,004 mL
                                                                     59 mL
   PO:
                                                                    100 mL
             TF:
   IVF:
                                                                  1,904 mL
                                                                     59 mL
   Blood products:
   Total out:
                                                                    855 mL
                                                                    305 mL
   Urine:
                                                                    855 mL
                                                                    305 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,149 mL
                                                                   -246 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 821 (324 - 821) mL
   PS : 12 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 70%
   PIP: 18 cmH2O
   SpO2: 95%
   ABG: 7.36/61/52/32/6
   Ve: 10.2 L/min
   PaO2 / FiO2: 74
   Physical Examination
   Gen: Awake and alert, answering all questions appropriately, able to
   speak in [**3-1**] word sentences, states she is breathing much better today,
   thought Q4h nebs improved breathing
   HEENT: NC AT facemask on highflow oxygen in place
   CV: unable to auscultate over lung sounds
   Lungs: diffuse wheezing, prolonged expiratory phase.
   Abd: obese, multiple old surgical scars, no tenderness, BS+
   Ext: no significant edema, no clubbing or cyanosis, 2+ DP and radial
   pulses B/L
   Labs / Radiology
   333 K/uL
   10.4 g/dL
   127 mg/dL
   0.8 mg/dL
   32 mEq/L
   4.0 mEq/L
   20 mg/dL
   96 mEq/L
   140 mEq/L
   31.5 %
   33.5 K/uL
        [image002.jpg]
                             [**2105-12-4**]  08:53 PM
                             [**2105-12-5**]  02:50 AM
                             [**2105-12-5**]  06:32 AM
                             [**2105-12-6**]  05:00 AM
                            [**2105-12-7**]  03:29 AM
                            [**2105-12-8**]  04:35 AM
                            [**2105-12-8**]  12:09 PM
                            [**2105-12-9**]  03:11 AM
   WBC
   39.0
   33.5
   29.5
   29.7
   33.5
   Hct
   34.1
   30.7
   29.2
   31.1
   31.5
   Plt
   355
   327
   325
   335
   333
   Cr
   1.6
   1.3
   1.0
   0.9
   0.8
   TropT
   0.21
   0.07
   TCO2
   26
   27
   36
   Glucose
   156
   116
   96
   97
   127
   Other labs: Ca++:9.3 mg/dL, Mg++:1.8 mg/dL, PO4:4.1 mg/dL
   Micro: CDiff negative x1
   Radiology: No new studies
   Assessment and Plan
   A/P: Mrs. [**Known lastname 1930**] is a 64 yo F with PMH of COPD, stage III non small
   cell lung cancer undergoing chemotherapy outpatient who presented with
   hypoxic respiratory failure likely [**2-28**] post obstructive pneumonia.
   Patient with a Hx of MRSA and pseudomonas pneumonia.
   # Hypoxic Respiratory failure - likely [**2-28**] post obstructive pneumonia
   as seen on CXR.  ABG with significant AA gradient given PaO2 of 64 on
   70% FIO2, representing shunt physiology.  Patient seems to be improving
   on anbiotic therapy but unable to be weaned from bipap.  Having some
   facial breakdown from bipap mask.
   -treat PNA broadly with [**Doctor Last Name **], Zosyn, Levo given significant bandemia,
   h/o MRSA and pseudomonas, and hypotension requiring pressors at OSH.
   Unable to narrow antibiotic coverage b/c no cultures.
   -continue with home regimen of advair, spiriva, xopenex,  Q4h
   nebulizers today
   - keep IV solumedrol for now to replace po prednisone b/c pt could not
   take po meds yesterday am, want to be sure that steroids
   - continue bipap
   - continue to assess patient comfort as a goal of treatment; can use
   morphine to relieve air hunger as needed
   - f/u blood cx
   - Dr. [**Last Name (STitle) 65**] aware of admission
   - to call pulmonologist today (Dr [**Last Name (STitle) 65**] to discuss whether primary
   problem endstage COPD v Lung CA/pneumonia
 may help re-direct goals of
   care
   #Non-small cell lung ca - she has metal stent in place to open up
   obstruction caused by the tumor.  Getting chemo currently, due for next
   chemo [**12-17**].
   -Dr. [**Last Name (STitle) 1932**] emailed to notify of admission, not in town, currently
   covered by Dr [**First Name (STitle) **]
   [**Name (STitle) 2090**] Dr [**First Name (STitle) **] today to touch base regarding utility of chemo on
   [**12-17**] and options for other CA treatment.
   -Follow-up with  palliative care
s recs after today
s visit.
   #NSTEMI - most likely [**2-28**] demand ischemia in the setting of severe
   hypoxia and early sepsis.   Cardiac enzymes mildly elevated at 0.21,
   now decreased.
   -ASA 325mg
   -Continue atorvastatin
   -hold off on BB, given hypotension and COPD
   -lipitor 80mg daily
   #Elevated WBC  - stable. likely [**2-28**] infection although leukocytosis
   could also be in part due to steroids.  UCx negative,
   blood cultures pending, sputum not available (pt not producing)
   -antibiotics as above
   -monitor WBC
   #Depression
 continue Zoloft and effexor (renally dose).
   - SW consult as per patient request/palliative care recommendations.
   #Prophylaxis: pneumoboots (patient refuses Heparin SC
 risks/benefits
   discussed w/patient), Famotidine, bowel reg if needed
   #FEN: IVF if unable to tolerate POs due to mask.  Start maintenance
   fluids.
   #Code Status: DNR/DNI.  Palliative care consult complete.  SW consult
   for tomorrow to discuss financial issues (patient requested).
   Continuing to address goals of care and patient requests.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2105-12-5**] 02:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2105-12-09 10:14:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -Patient with improved ventilation with nebs, MSO4, BIPAP and IV
   steroids patient able to move to stable respiratory support
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Cefaclor
   Increased Heart
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2105-12-8**] 06:12 PM
   Vancomycin - [**2105-12-9**] 07:58 AM
   Levofloxacin - [**2105-12-9**] 09:05 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2105-12-8**] 10:15 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2105-12-9**] 10:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.4
C (97.5
   HR: 114 (113 - 121) bpm
   BP: 140/110(117) {113/56(71) - 157/110(117)} mmHg
   RR: 27 (16 - 27) insp/min
   SpO2: 83%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
             Total In:
                                                                  2,004 mL
                                                                    400 mL
   PO:
                                                                    100 mL
             TF:
   IVF:
                                                                  1,904 mL
                                                                    400 mL
   Blood products:
   Total out:
                                                                    855 mL
                                                                    485 mL
   Urine:
                                                                    855 mL
                                                                    485 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,149 mL
                                                                    -85 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 821 (329 - 821) mL
   PS : 12 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 70%
   PIP: 18 cmH2O
   SpO2: 83%
   ABG: 7.36/61/52/32/6
   Ve: 10.2 L/min
   PaO2 / FiO2: 74
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Wheezes : , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.4 g/dL
   333 K/uL
   127 mg/dL
   0.8 mg/dL
   32 mEq/L
   4.0 mEq/L
   20 mg/dL
   96 mEq/L
   140 mEq/L
   31.5 %
   33.5 K/uL
        [image002.jpg]
                             [**2105-12-4**]  08:53 PM
                             [**2105-12-5**]  02:50 AM
                             [**2105-12-5**]  06:32 AM
                             [**2105-12-6**]  05:00 AM
                            [**2105-12-7**]  03:29 AM
                            [**2105-12-8**]  04:35 AM
                            [**2105-12-8**]  12:09 PM
                            [**2105-12-9**]  03:11 AM
   WBC
   39.0
   33.5
   29.5
   29.7
   33.5
   Hct
   34.1
   30.7
   29.2
   31.1
   31.5
   Plt
   355
   327
   325
   335
   333
   Cr
   1.6
   1.3
   1.0
   0.9
   0.8
   TropT
   0.21
   0.07
   TCO2
   26
   27
   36
   Glucose
   156
   116
   96
   97
   127
   Other labs: PT / PTT / INR:14.3/32.5/1.2, CK / CKMB /
   Troponin-T:276/5/0.07, Differential-Neuts:94.0 %, Band:0.0 %, Lymph:0.0
   %, Mono:5.0 %, Eos:1.0 %, Ca++:9.3 mg/dL, Mg++:1.8 mg/dL, PO4:4.1 mg/dL
   Fluid analysis / Other labs: 7.36/61/52--84% sat during respiratory
   distress
   Assessment and Plan
   64 yo female with lung cancer, COPD and post obstructive pneumonia all
   contributing to current respiratory decline and failiuire with need for
   BIPAP support intermittently.  We are working towards establishment of
   a stable regimen of support with non-invasive ventilatory support,
   continued antibiotics and use of bronchodilators and MSO4 for acute
   respiratory distress.  A goal would be to establish a support regimen
   that will allow her to move to a level of care independent of the ICU
   with home with hospice as a goal.
   1)Respiratory Failure-
   -BIPAP may be limited by severe hypoxemia and inability to deliver true
   high FIO2
will need continue NIV if oxygenation is a problem
   -Continue with antibiotics and bronchodilators at a maximum
   -MSO4 as needed for respiratory discomfort
   1.5)Chronic Obstructive Lung Disease-
   -Solumedrol IV to continue
   -Spiriva and all bronchodilators to continue
   2)Pneumonia-
   -Vanco/ZOsyn
   -Chest PT as tolerated and with stable WBC count and no fevers
 DIARRHEA
 .H/O CANCER (MALIGNANT NEOPLASM), LUNG
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 HEART FAILURE (CHF), SYSTOLIC, ACUTE
   ICU Care
   Nutrition: po intake when able to tolerate it with hypoxemia
   Glycemic Control:
   Lines:
   20 Gauge - [**2105-12-5**] 02:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2105-12-10 04:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 URINE CULTURE - At [**2105-12-9**] 08:00 AM
     * sw consulted
     * palliative care saw pt, will talk to covering oncologist RE chemo
       vs other possible treatments
     * emailed Dr [**Last Name (STitle) 65**] (pulmonologist)
     * emailed Dr [**Last Name (STitle) 1932**] (oncologist) Dr [**Last Name (STitle) 1183**] (covering for Dr [**Last Name (STitle) 1932**]
       called back, will see in next 2 days - page [**Numeric Identifier 2100**]
     * to consult radiation oncology to consider xrt for R lung (prior on
       L apex but none on R)
     * no chemo now per Dr [**Last Name (STitle) 1183**]
     * d/c sc heparin at pt request
     * increased Morphine to Q4h PRN
   Allergies:
   Cefaclor
   Increased Heart
   Last dose of Antibiotics:
   Vancomycin - [**2105-12-9**] 07:58 AM
   Levofloxacin - [**2105-12-9**] 09:05 AM
   Piperacillin/Tazobactam (Zosyn) - [**2105-12-10**] 12:00 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2105-12-10**] 03:01 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-12-10**] 04:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.4
C (97.5
   HR: 113 (111 - 123) bpm
   BP: 135/75(89) {116/65(84) - 157/110(117)} mmHg
   RR: 16 (16 - 27) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
             Total In:
                                                                    920 mL
                                                                    149 mL
   PO:
                                                                    180 mL
             TF:
   IVF:
                                                                    740 mL
                                                                    149 mL
   Blood products:
   Total out:
                                                                  1,320 mL
                                                                    220 mL
   Urine:
                                                                  1,320 mL
                                                                    220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -400 mL
                                                                    -71 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 824 (578 - 870) mL
   PS : 15 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 70%
   PIP: 21 cmH2O
   SpO2: 95%
   ABG: ///33/
   Ve: 10 L/min
   Physical Examination
   Gen: Awake and alert, answering all questions appropriately, able to
   speak in [**3-1**] word sentences, states she is breathing much better today,
   thought Q4h nebs improved breathing
   HEENT: NC AT facemask on highflow oxygen in place
   CV: unable to auscultate over lung sounds
   Lungs: diffuse wheezing, prolonged expiratory phase.
   Abd: obese, multiple old surgical scars, no tenderness, BS+
   Ext: no significant edema, no clubbing or cyanosis, 2+ DP and radial
   pulses B/L
   Labs / Radiology
   334 K/uL
   10.4 g/dL
   111 mg/dL
   0.9 mg/dL
   33 mEq/L
   3.8 mEq/L
   22 mg/dL
   95 mEq/L
   138 mEq/L
   30.2 %
   40.9 K/uL
        [image002.jpg]
                             [**2105-12-4**]  08:53 PM
                             [**2105-12-5**]  02:50 AM
                             [**2105-12-5**]  06:32 AM
                             [**2105-12-6**]  05:00 AM
                            [**2105-12-7**]  03:29 AM
                            [**2105-12-8**]  04:35 AM
                            [**2105-12-8**]  12:09 PM
                            [**2105-12-9**]  03:11 AM
                            [**2105-12-10**]  02:30 AM
   WBC
   39.0
   33.5
   29.5
   29.7
   33.5
   40.9
   Hct
   34.1
   30.7
   29.2
   31.1
   31.5
   30.2
   Plt
   355
   327
   325
   335
   333
   334
   Cr
   1.6
   1.3
   1.0
   0.9
   0.8
   0.9
   TropT
   0.21
   0.07
   TCO2
   26
   27
   36
   Glucose
   156
   116
   96
   97
   127
   111
   Other labs: PT / PTT / INR:14.3/32.5/1.2, CK / CKMB /
   Troponin-T:276/5/0.07, Differential-Neuts:94.0 %, Band:0.0 %, Lymph:0.0
   %, Mono:5.0 %, Eos:1.0 %, Ca++:9.4 mg/dL, Mg++:2.0 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   A/P: Mrs. [**Known lastname 1930**] is a 64 yo F with PMH of COPD, stage III non small
   cell lung cancer undergoing chemotherapy outpatient who presented with
   hypoxic respiratory failure likely [**2-28**] post obstructive pneumonia.
   Patient with a Hx of MRSA and pseudomonas pneumonia.
   # Hypoxic Respiratory failure - likely [**2-28**] post obstructive pneumonia
   as seen on CXR.  ABG with significant AA gradient given PaO2 of 64 on
   70% FIO2, representing shunt physiology.  Patient seems to be improving
   on anbiotic therapy but unable to be weaned from bipap.  Having some
   facial breakdown from bipap mask.
   -treat PNA broadly with [**Doctor Last Name **], Zosyn, Levo given significant bandemia,
   h/o MRSA and pseudomonas, and hypotension requiring pressors at OSH.
   Unable to narrow antibiotic coverage b/c no cultures.
   -continue with home regimen of advair, spiriva, xopenex,  Q4h
   nebulizers today
   - keep IV solumedrol for now to replace po prednisone b/c pt could not
   take po meds yesterday am, want to be sure that steroids
   - continue bipap
   - continue to assess patient comfort as a goal of treatment; can use
   morphine to relieve air hunger as needed
   - f/u blood cx
   - Dr. [**Last Name (STitle) 65**] aware of admission
   - to call pulmonologist today (Dr [**Last Name (STitle) 65**] to discuss whether primary
   problem endstage COPD v Lung CA/pneumonia
 may help re-direct goals of
   care
   #Non-small cell lung ca - she has metal stent in place to open up
   obstruction caused by the tumor.  Getting chemo currently, due for next
   chemo [**12-17**].
   -Dr. [**Last Name (STitle) 1932**] emailed to notify of admission, not in town, currently
   covered by Dr [**First Name (STitle) **]
   [**Name (STitle) 2090**] Dr [**First Name (STitle) **] today to touch base regarding utility of chemo on
   [**12-17**] and options for other CA treatment.
   -Follow-up with  palliative care
s recs after today
s visit.
   #NSTEMI - most likely [**2-28**] demand ischemia in the setting of severe
   hypoxia and early sepsis.   Cardiac enzymes mildly elevated at 0.21,
   now decreased.
   -ASA 325mg
   -Continue atorvastatin
   -hold off on BB, given hypotension and COPD
   -lipitor 80mg daily
   #Elevated WBC  - stable. likely [**2-28**] infection although leukocytosis
   could also be in part due to steroids.  UCx negative,
   blood cultures pending, sputum not available (pt not producing)
   -antibiotics as above
   -monitor WBC
   #Depression
 continue Zoloft and effexor (renally dose).
   - SW consult as per patient request/palliative care recommendations.
   #Prophylaxis: pneumoboots (patient refuses Heparin SC
 risks/benefits
   discussed w/patient), Famotidine, bowel reg if needed
   #FEN: IVF if unable to tolerate POs due to mask.  Start maintenance
   fluids.
   #Code Status: DNR/DNI.  Palliative care consult complete.  SW consult
   for tomorrow to discuss financial issues (patient requested).
   Continuing to address goals of care and patient requests.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2105-12-5**] 02:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2105-12-10 11:04:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   HPI:
   -Paitent with continued respiratory distress and ventilatory compromise
   requiring BIPAP support
   24 Hour Events:
 URINE CULTURE - At [**2105-12-9**] 08:00 AM
   Allergies:
   Cefaclor
   Increased Heart
   Last dose of Antibiotics:
   Levofloxacin - [**2105-12-9**] 09:05 AM
   Piperacillin/Tazobactam (Zosyn) - [**2105-12-10**] 06:00 AM
   Vancomycin - [**2105-12-10**] 08:10 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2105-12-10**] 03:01 AM
   Other medications:
   Changes to medical and family history:
   No chnages
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-12-10**] 11:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 113 (111 - 123) bpm
   BP: 147/84(98) {116/58(78) - 157/97(104)} mmHg
   RR: 30 (15 - 30) insp/min
   SpO2: 91%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
             Total In:
                                                                    920 mL
                                                                    783 mL
   PO:
                                                                    180 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    740 mL
                                                                    683 mL
   Blood products:
   Total out:
                                                                  1,320 mL
                                                                    495 mL
   Urine:
                                                                  1,320 mL
                                                                    495 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -400 mL
                                                                    288 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 652 (578 - 870) mL
   PS : 15 cmH2O
   RR (Spontaneous): 3
   PEEP: 5 cmH2O
   FiO2: 70%
   PIP: 15 cmH2O
   SpO2: 91%
   ABG: ///33/
   Ve: 11 L/min
   Physical Examination
   Patient responsive to verbal stimuli
   She had continued obvious use of accessory muscles and tachypnea
   Patient with decreased breath sounds bilaterally and with significant
   ronchi noted
   Heart sounds are distant
   Extremities are with moderate edema
   Labs / Radiology
   10.4 g/dL
   334 K/uL
   111 mg/dL
   0.9 mg/dL
   33 mEq/L
   3.8 mEq/L
   22 mg/dL
   95 mEq/L
   138 mEq/L
   30.2 %
   40.9 K/uL
        [image002.jpg]
                             [**2105-12-4**]  08:53 PM
                             [**2105-12-5**]  02:50 AM
                             [**2105-12-5**]  06:32 AM
                             [**2105-12-6**]  05:00 AM
                            [**2105-12-7**]  03:29 AM
                            [**2105-12-8**]  04:35 AM
                            [**2105-12-8**]  12:09 PM
                            [**2105-12-9**]  03:11 AM
                            [**2105-12-10**]  02:30 AM
   WBC
   39.0
   33.5
   29.5
   29.7
   33.5
   40.9
   Hct
   34.1
   30.7
   29.2
   31.1
   31.5
   30.2
   Plt
   355
   327
   325
   335
   333
   334
   Cr
   1.6
   1.3
   1.0
   0.9
   0.8
   0.9
   TropT
   0.21
   0.07
   TCO2
   26
   27
   36
   Glucose
   156
   116
   96
   97
   127
   111
   Other labs: PT / PTT / INR:14.3/32.5/1.2, CK / CKMB /
   Troponin-T:276/5/0.07, Differential-Neuts:96.0 %, Band:1.0 %, Lymph:0.0
   %, Mono:1.0 %, Eos:1.0 %, Ca++:9.4 mg/dL, Mg++:2.0 mg/dL, PO4:3.0 mg/dL
   CT SCAN:Patient with increase in right sided mass based upon repeat CT
   scan done this morning
will need formal radiology read to consider
   differentiation of superimposed infection and evolution of mass lesion
   Assessment and Plan
   64 yo female with COPD and Lung CA now with persistent and signficiant
   respiratory compromise in the setting of post obstructive pneumonia.
   She has undergone continued support with BIPAP and O2 but has been slow
   to clear her secreations and need for increased local therapies to
   faciliate dyspnea and resolution of pneumonia.   The plans being
   purused will all have to be weighed against the relative risks as has
   been documented prior.  Certainly XRT should be considered but there
   does exist a significant risk of both worsening edema and obstruction
   and current dosing will have to be considered with radiation oncology.
   In addition, patient has sufficient respiratory distress and hypoxemia
   which would make any local therapy directed by Interventional Pulmonary
   difficult without intubation and prolonged respiratory failure without
   a reasonable expectation for extubation based upon clinical worsening.
   In addition, patient has very difficult anatomy for local stent therapy
   which has been raised as well.  In summary
we will continue to work to
   evaluate for any possible additional palliative interventions that are
   available but current course of support with intermittent BIPAP and O2
   and medications to relive patient discomfort.
   Respiratory Failure-
   -Will review CT scan with IP, Rad Onc, Primary Oncology
   -Will optimize palliative support with BIPAP and O2
   -NO offer of chemotherapy from oncology in this setting of critical
   illness which makese perfect sense
   -Suction as needed
   -Continue antibiotics for post obstructive pneumonia
 RASH
 DIARRHEA
 .H/O CANCER (MALIGNANT NEOPLASM), LUNG
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 HEART FAILURE (CHF), SYSTOLIC, ACUTE
   ICU Care
   Nutrition: po when able
   Glycemic Control:
   Lines:
   20 Gauge - [**2105-12-5**] 02:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNI
   Disposition : ICU
   Total time spent: 45

2105-12-11 05:58:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Rad onc saw her, not eligible for further XRT [**2-28**] previous doses
   -IP saw her, would not benefit from stenting or other interventions
   -CT scans-  very large tumor on R side obstructing RLL and partial RML
   Allergies:
   Cefaclor
   Increased Heart
   Last dose of Antibiotics:
   Levofloxacin - [**2105-12-9**] 09:05 AM
   Vancomycin - [**2105-12-10**] 08:10 AM
   Piperacillin/Tazobactam (Zosyn) - [**2105-12-11**] 12:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2105-12-10**] 09:34 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-12-11**] 05:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.4
C (97.5
   HR: 111 (109 - 124) bpm
   BP: 129/85(95) {115/58(77) - 155/109(121)} mmHg
   RR: 25 (15 - 31) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
             Total In:
                                                                  2,250 mL
                                                                    495 mL
   PO:
                                                                    200 mL
             TF:
   IVF:
                                                                  2,050 mL
                                                                    495 mL
   Blood products:
   Total out:
                                                                  1,365 mL
                                                                    300 mL
   Urine:
                                                                  1,365 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    885 mL
                                                                    195 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 800 (124 - 800) mL
   PS : 15 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 70%
   PIP: 21 cmH2O
   SpO2: 96%
   ABG: ////
   Ve: 9 L/min
   Physical Examination
   Gen: Awake and alert, answering all questions appropriately, able to
   speak in [**3-1**] word sentences, states she is breathing much better today,
   thought Q4h nebs improved breathing
   HEENT: NC AT facemask on highflow oxygen in place
   CV: unable to auscultate over lung sounds
   Lungs: diffuse wheezing, inspiratory and expiratory. Prolong expiratory
   phase.
   Abd: obese, multiple old surgical scars, no tenderness, BS+
   Ext: no significant edema, no clubbing or cyanosis, 2+ DP and radial
   pulses B/L
   Labs / Radiology
   354 K/uL
   10.1 g/dL
   128 mg/dL
   0.9 mg/dL
   34 mEq/L
   3.9 mEq/L
   20 mg/dL
   99 mEq/L
   139 mEq/L
   29.6 %
   44.1 K/uL
        [image002.jpg]
                             [**2105-12-4**]  08:53 PM
                             [**2105-12-5**]  02:50 AM
                             [**2105-12-5**]  06:32 AM
                             [**2105-12-6**]  05:00 AM
                            [**2105-12-7**]  03:29 AM
                            [**2105-12-8**]  04:35 AM
                            [**2105-12-8**]  12:09 PM
                            [**2105-12-9**]  03:11 AM
                            [**2105-12-10**]  02:30 AM
   WBC
   39.0
   33.5
   29.5
   29.7
   33.5
   40.9
   Hct
   34.1
   30.7
   29.2
   31.1
   31.5
   30.2
   Plt
   355
   327
   325
   335
   333
   334
   Cr
   1.6
   1.3
   1.0
   0.9
   0.8
   0.9
   TropT
   0.21
   0.07
   TCO2
   26
   27
   36
   Glucose
   156
   116
   96
   97
   127
   111
   Other labs: Ca++:9.6 mg/dL, Mg++:1.8 mg/dL, PO4:2.9 mg/dL
   CT chest & abdomen Impression:
   1. Worsening disease in the right lung with enlarging tumor causing new
   marked narrowing and obstruction of multiple right bronchi, as well as
   multiple enlarging mediastinal lymph nodes.
   2. New ground glass and more consolidative opacities in the right upper
   lobe, right lower lobe, and to a lesser degree left lower lobe that
   suggest postobstructive multifocal pneumonia.
   Assessment and Plan
   A/P: Mrs. [**Known lastname 1930**] is a 64 yo F with PMH of COPD, stage III non small
   cell lung cancer undergoing chemotherapy outpatient who presented with
   hypoxic respiratory failure likely [**2-28**] post obstructive pneumonia.
   Patient with a Hx of MRSA and pseudomonas pneumonia.
   # Hypoxic Respiratory failure - likely [**2-28**] expansion of underlying lung
   tumor more than post obstructive pneumonia as seen on CT scan.  She has
   made relatively little progress despite antibiotic therapy and has been
   afebrile throughout her hospital stay.  Rad onc consulted regarding
   potential XRT of tumor, but they do not feel that she can receive any
   more radiation to that area.  IP consulted regarding possible
   interventions, but they do not feel she is a candidate for further
   stenting or other interventions based on chest CT.  Team has been in
   e-mail contact with her oncologist Dr. [**Last Name (STitle) 1932**] regarding her status and
   possibility of further treatment.  After discussing these consults and
   the results of the chest CT, the patient
s primary goals now are for
   comfort.  Will have palliative care see the patient again today to help
   determine how best we can meet her personal goals.
   -continue broad spectrum abx Vancomycin, Zosyn, Levaquin; likely poor
   lung penetration due to mass obstruction, though may decompensate more
   quickly if antibiotics are withdrawn
   -continue with home regimen of advair, spiriva, xopenex,  Q4h nebs
   - continue with IV steroids for now
   - continue bipap or face mask as tolerated
   - continue to assess patient comfort as a goal of treatment; can use
   morphine to relieve air hunger as needed
   - f/u blood cx
   #Non-small cell lung ca - she has metal stent in place to open up
   obstruction caused by the tumor.  Getting chemo currently, due for next
   chemo [**12-17**].  Discussing chemo options with Dr. [**Last Name (STitle) 1932**], but further
   therapy may not be an option for her given her advanced state.
   .
   #NSTEMI - most likely [**2-28**] demand ischemia in the setting of severe
   hypoxia and early sepsis.   Cardiac enzymes mildly elevated at 0.21,
   now decreased.
   -ASA 325mg
   -Continue atorvastatin
   -hold off on BB, given hypotension and COPD
   -lipitor 80mg daily
   #Elevated WBC  - stable. likely [**2-28**] steroids vs. infection.  UCx
   negative, blood cultures pending, sputum not available (pt not
   producing)
   -antibiotics as above
   -monitor WBC, f/u cultures
   #Depression
 continue Zoloft and effexor (renally dose).
   - SW consult as per patient request/palliative care recommendations.
   #Prophylaxis: SC heparin
 pt is willing to take now, Famotidine, bowel
   reg if needed
   #FEN: IVF if unable to tolerate POs due to mask.  Start maintenance
   fluids.
   #Code Status: DNR/DNI.  Palliative care and SW following.  Continuing
   to address goals of care and patient requests.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2105-12-5**] 02:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2105-12-11 10:01:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Patient with persistent hypoxemia and BIPAP support
   CT showing substantial increase in tumor size
   Allergies:
   Cefaclor
   Increased Heart
   Last dose of Antibiotics:
   Levofloxacin - [**2105-12-9**] 09:05 AM
   Piperacillin/Tazobactam (Zosyn) - [**2105-12-11**] 06:00 AM
   Vancomycin - [**2105-12-11**] 07:58 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2105-12-11**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: Tachycardia
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2105-12-11**] 09:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 113 (109 - 124) bpm
   BP: 139/87(101) {115/60(75) - 155/109(121)} mmHg
   RR: 18 (17 - 31) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
             Total In:
                                                                  2,250 mL
                                                                  1,321 mL
   PO:
                                                                    200 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  2,050 mL
                                                                  1,081 mL
   Blood products:
   Total out:
                                                                  1,365 mL
                                                                    480 mL
   Urine:
                                                                  1,365 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    885 mL
                                                                    841 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 800 (124 - 800) mL
   PS : 15 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 95%
   PIP: 21 cmH2O
   SpO2: 95%
   ABG: ///34/
   Ve: 9 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.1 g/dL
   354 K/uL
   128 mg/dL
   0.9 mg/dL
   34 mEq/L
   3.9 mEq/L
   20 mg/dL
   99 mEq/L
   139 mEq/L
   29.6 %
   44.1 K/uL
        [image002.jpg]
                             [**2105-12-4**]  08:53 PM
                             [**2105-12-5**]  02:50 AM
                             [**2105-12-5**]  06:32 AM
                             [**2105-12-6**]  05:00 AM
                            [**2105-12-7**]  03:29 AM
                            [**2105-12-8**]  04:35 AM
                            [**2105-12-8**]  12:09 PM
                            [**2105-12-9**]  03:11 AM
                            [**2105-12-10**]  02:30 AM
                            [**2105-12-11**]  05:40 AM
   WBC
   39.0
   33.5
   29.5
   29.7
   33.5
   40.9
   44.1
   Hct
   34.1
   30.7
   29.2
   31.1
   31.5
   30.2
   29.6
   Plt
   355
   327
   325
   335
   333
   334
   354
   Cr
   1.6
   1.3
   1.0
   0.9
   0.8
   0.9
   0.9
   TropT
   0.21
   0.07
   TCO2
   26
   27
   36
   Glucose
   156
   116
   96
   97
   127
   111
   128
   Other labs: PT / PTT / INR:14.3/32.5/1.2, CK / CKMB /
   Troponin-T:276/5/0.07, Differential-Neuts:96.0 %, Band:1.0 %, Lymph:0.0
   %, Mono:1.0 %, Eos:1.0 %, Ca++:9.6 mg/dL, Mg++:1.8 mg/dL, PO4:2.9 mg/dL
   Imaging: CT Scan--multifocal ground glass opacites consistent with post
   obstructive pneumonia and increase in tumor size.
   Assessment and Plan
   64 yo female with lung cancer--recurrent on right side--and now with
   progression of tumor size and smaller component of post obstructive
   pneumonia which has led to a persistent respiratory compromise.  She
   has had extensive evaluation by radiation oncology and interventional
   pulmonology with no further specific palliative interventions
   available.
 RASH
 DIARRHEA
 CANCER (MALIGNANT NEOPLASM), LUNG-
   -Extensive consideration of therapeutic options available.  Dr. [**Last Name (STitle) 1932**]
   updated on clinical events
   -Palliative care to be in to discuss what therapeutic plan would "look
   like" going forward given interventions possible.
   -Patient has stated clear goals of wanting to avoid pain and avoid
   dyspnea
she would not want intubation or mechanical ventilation.  She
   has a goal of home if she could be fully supported there.
   -Will continue with full support here in the ICU until we have a clear
   picture of timing of patient
s wishes for inpatient hospice vs. CMO in
   ICU.
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 HEART FAILURE (CHF), SYSTOLIC, ACUTE
   Pneumonia-
   -Zosyn to continue but patient has remained afebrile throughout
   -Chest PT if tolerated
   ICU Care
   Nutrition: npo
   Glycemic Control:
   Lines:
   20 Gauge - [**2105-12-5**] 02:00 AM
   Prophylaxis:
   DVT: sq heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35

2105-12-12 05:29:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Pt kept on bipap during day and night.  Further discussions with
   palliative care.
   Started morphine gtt this morning.
   This morning, pt is comfortable.  Wishes to live until Tuesday,
   birthday of her relative is on [**Name (NI) 305**].  Wishes to continue to
   antibiotics and full care to try to live until Tuesday.  She knows that
   she will not improve and will likely die from this illness.
   Allergies:
   Cefaclor
   Increased Heart
   Last dose of Antibiotics:
   Vancomycin - [**2105-12-11**] 07:58 AM
   Levofloxacin - [**2105-12-11**] 10:10 AM
   Piperacillin/Tazobactam (Zosyn) - [**2105-12-12**] 05:07 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2105-12-12**] 04:30 AM
   Morphine Sulfate - [**2105-12-12**] 05:07 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-12-12**] 05:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.7
C (98
   HR: 103 (103 - 117) bpm
   BP: 129/86(93) {123/60(75) - 155/108(114)} mmHg
   RR: 17 (16 - 27) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
             Total In:
                                                                  2,592 mL
                                                                    510 mL
   PO:
                                                                    240 mL
             TF:
   IVF:
                                                                  2,352 mL
                                                                    510 mL
   Blood products:
   Total out:
                                                                  2,040 mL
                                                                    290 mL
   Urine:
                                                                  2,040 mL
                                                                    290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    552 mL
                                                                    220 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 925 (664 - 925) mL
   PS : 10 cmH2O
   RR (Spontaneous): 78
   PEEP: 8 cmH2O
   FiO2: 70%
   PIP: 24 cmH2O
   SpO2: 93%
   ABG: ///34/
   Ve: 3.2 L/min
   Physical Examination
   Gen: Awake and alert, answering all questions appropriately, able to
   speak in [**3-1**] word sentences, states she is breathing much better today,
   thought Q4h nebs improved breathing
   HEENT: NC AT facemask on highflow oxygen in place
   CV: unable to auscultate over lung sounds
   Lungs: diffuse wheezing, inspiratory and expiratory. Prolong expiratory
   phase.
   Abd: obese, multiple old surgical scars, no tenderness, BS+
   Ext: no significant edema, no clubbing or cyanosis, 2+ DP and radial
   pulses B/L
   Labs / Radiology
   354 K/uL
   10.1 g/dL
   128 mg/dL
   0.9 mg/dL
   34 mEq/L
   3.9 mEq/L
   20 mg/dL
   99 mEq/L
   139 mEq/L
   29.6 %
   44.1 K/uL
        [image002.jpg]
                             [**2105-12-4**]  08:53 PM
                             [**2105-12-5**]  02:50 AM
                             [**2105-12-5**]  06:32 AM
                             [**2105-12-6**]  05:00 AM
                            [**2105-12-7**]  03:29 AM
                            [**2105-12-8**]  04:35 AM
                            [**2105-12-8**]  12:09 PM
                            [**2105-12-9**]  03:11 AM
                            [**2105-12-10**]  02:30 AM
                            [**2105-12-11**]  05:40 AM
   WBC
   39.0
   33.5
   29.5
   29.7
   33.5
   40.9
   44.1
   Hct
   34.1
   30.7
   29.2
   31.1
   31.5
   30.2
   29.6
   Plt
   355
   327
   325
   335
   333
   334
   354
   Cr
   1.6
   1.3
   1.0
   0.9
   0.8
   0.9
   0.9
   TropT
   0.21
   0.07
   TCO2
   26
   27
   36
   Glucose
   156
   116
   96
   97
   127
   111
   128
   Other labs: PT / PTT / INR:14.3/32.5/1.2, CK / CKMB /
   Troponin-T:276/5/0.07, Differential-Neuts:96.0 %, Band:1.0 %, Lymph:0.0
   %, Mono:1.0 %, Eos:1.0 %, Ca++:9.6 mg/dL, Mg++:1.8 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   A/P: Mrs. [**Known lastname 1930**] is a 64 yo F with PMH of COPD, stage III non small
   cell lung cancer undergoing chemotherapy outpatient who presented with
   hypoxic respiratory failure likely [**2-28**] post obstructive pneumonia.
   Patient with a Hx of MRSA and pseudomonas pneumonia.
   # Hypoxic Respiratory failure - likely [**2-28**] expansion of underlying lung
   tumor more than post obstructive pneumonia as seen on CT scan.  She has
   made relatively little progress despite antibiotic therapy and has been
   afebrile throughout her hospital stay.  Rad onc consulted regarding
   potential XRT of tumor, but they do not feel that she can receive any
   more radiation to that area.  IP consulted regarding possible
   interventions, but they do not feel she is a candidate for further
   stenting or other interventions based on chest CT.  Team has been in
   e-mail contact with her oncologist Dr. [**Last Name (STitle) 1932**] regarding her status and
   possibility of further treatment.  After discussing these consults and
   the results of the chest CT, the patient
s primary goals now are for
   comfort.  Palliative care team on board.
   -continue broad spectrum abx Vancomycin, Zosyn, Levaquin; likely poor
   lung penetration due to mass obstruction, though may decompensate more
   quickly if antibiotics are withdrawn
   -continue with home regimen of advair, spiriva, xopenex,  Q4h nebs
   - continue with IV steroids for now as pt has been on and off bipap
   - continue bipap or face mask as tolerated
   - continue to assess patient comfort as a goal of treatment; can use
   morphine to relieve air hunger as needed
   - f/u blood cx
   #Non-small cell lung ca - she has metal stent in place to open up
   obstruction caused by the tumor.  Getting chemo currently, due for next
   chemo [**12-17**].  Discussing chemo options with Dr. [**Last Name (STitle) 1932**], but further
   therapy may not be an option for her given her advanced state.
   .
   #NSTEMI - most likely [**2-28**] demand ischemia in the setting of severe
   hypoxia and early sepsis.   Cardiac enzymes mildly elevated at 0.21,
   now decreased.
   -ASA 325mg
   -Continue atorvastatin
   -hold off on BB, given hypotension and COPD
   -lipitor 80mg daily
   #Elevated WBC  - stable. likely [**2-28**] steroids vs. infection.  UCx
   negative, blood cultures pending, sputum not available (pt not
   producing).  Pt now having diarrhea.
   -emperically treat with IV Flagyl for C. Diff.
   - continue to trend WBCs and monitor cultures for infection
   #Depression
 continue Zoloft and effexor (renally dose).
   - SW consult as per patient request/palliative care recommendations.
   #Prophylaxis: SC heparin
 pt is willing to take now, Famotidine, bowel
   reg if needed
   #FEN: IVF if unable to tolerate POs due to mask.  Start maintenance
   fluids.
   #Code Status: DNR/DNI.  Palliative care and SW following.  Continuing
   to address goals of care and patient requests.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2105-12-5**] 02:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2105-12-12 10:08:00 Physician Attending Progress Note
Chief Complaint: resp distress, post obs PNA
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2105-12-11**] 03:00 PM
 NON-INVASIVE VENTILATION - STOP [**2105-12-12**] 06:00 AM
   Ongoing discussion with pt and family - no palliative XRT available, no
   role for palliative stent
   Palliative Care consulted, currently getting low dose morphine but
   still getting fluids and ABX
   Allergies:
   Cefaclor
   Increased Heart
   Last dose of Antibiotics:
   Levofloxacin - [**2105-12-11**] 10:10 AM
   Piperacillin/Tazobactam (Zosyn) - [**2105-12-12**] 05:07 AM
   Vancomycin - [**2105-12-12**] 08:03 AM
   Infusions:
   Morphine Sulfate - 0.5 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2105-12-12**] 04:30 AM
   Morphine Sulfate - [**2105-12-12**] 05:07 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Dyspnea
   Flowsheet Data as of  [**2105-12-12**] 10:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.7
C (98
   HR: 104 (99 - 117) bpm
   BP: 147/92(106) {126/72(88) - 155/108(114)} mmHg
   RR: 18 (16 - 27) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  2,592 mL
                                                                  1,058 mL
   PO:
                                                                    240 mL
             TF:
   IVF:
                                                                  2,352 mL
                                                                  1,058 mL
   Blood products:
   Total out:
                                                                  2,040 mL
                                                                    465 mL
   Urine:
                                                                  2,040 mL
                                                                    465 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    552 mL
                                                                    593 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 925 (664 - 925) mL
   PS : 10 cmH2O
   RR (Spontaneous): 78
   PEEP: 8 cmH2O
   FiO2: 70%
   PIP: 24 cmH2O
   SpO2: 91%
   ABG: ///34/
   Ve: 3.2 L/min
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Respiratory / Chest: (Breath Sounds: Diminished: )
   Abd:
   Skin:
   Neurologic: Responds to voice, conversant
   Labs / Radiology
   10.7 g/dL
   353 K/uL
   118 mg/dL
   0.8 mg/dL
   34 mEq/L
   4.3 mEq/L
   18 mg/dL
   98 mEq/L
   140 mEq/L
   32.2 %
   45.8 K/uL
        [image002.jpg]
                             [**2105-12-5**]  02:50 AM
                             [**2105-12-5**]  06:32 AM
                             [**2105-12-6**]  05:00 AM
                            [**2105-12-7**]  03:29 AM
                            [**2105-12-8**]  04:35 AM
                            [**2105-12-8**]  12:09 PM
                            [**2105-12-9**]  03:11 AM
                            [**2105-12-10**]  02:30 AM
                            [**2105-12-11**]  05:40 AM
                            [**2105-12-12**]  05:09 AM
   WBC
   39.0
   33.5
   29.5
   29.7
   33.5
   40.9
   44.1
   45.8
   Hct
   34.1
   30.7
   29.2
   31.1
   31.5
   30.2
   29.6
   32.2
   Plt
   355
   327
   325
   335
   333
   334
   354
   353
   Cr
   1.6
   1.3
   1.0
   0.9
   0.8
   0.9
   0.9
   0.8
   TropT
   0.21
   0.07
   TCO2
   27
   36
   Glucose
   156
   116
   96
   97
   127
   111
   128
   118
   Other labs: PT / PTT / INR:14.3/32.5/1.2, CK / CKMB /
   Troponin-T:276/5/0.07, Differential-Neuts:96.0 %, Band:1.0 %, Lymph:0.0
   %, Mono:1.0 %, Eos:1.0 %, Ca++:9.6 mg/dL, Mg++:2.0 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
 RASH
 DIARRHEA
 .H/O CANCER (MALIGNANT NEOPLASM), LUNG
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 HEART FAILURE (CHF), SYSTOLIC, ACUTE
   64 yo female with lung cancer--recurrent on right side--and now with
   progression of tumor size and smaller component of post obstructive
   pneumonia which has led to a persistent respiratory compromise.  She
   has had extensive evaluation by radiation oncology and interventional
   pulmonology with no further specific palliative interventions
   available.
 CANCER (MALIGNANT NEOPLASM), LUNG-
   -Extensive consideration of therapeutic options available.  Dr. [**Last Name (STitle) 1932**]
   updated on clinical events
   -Palliative care to be in to discuss what therapeutic plan would "look
   like" going forward given interventions possible.
   -Patient has stated clear goals of wanting to avoid pain and avoid
   dyspnea
she would not want intubation or mechanical ventilation.  She
   has a goal of home if she could be fully supported there.
   -Will continue with full support here in the ICU as she still wants non
   invasive vent as needed though she is considering even stopping this
   early next week if she is no better
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
         Continue steroids (IV), nebs,
   Pneumonia--Zosyn to continue but patient has remained afebrile
   throughout
   -Chest PT if tolerated
   Leukocytosis: rising, repeat C diff, start Flagyl,
   ICU Care
   Nutrition: po diet as she wishes
   Glycemic Control:
   Lines:
   20 Gauge - [**2105-12-5**] 02:00 AM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer:
   Communication:  with pt and family
   Code status: DNR / DNI but still wants prn BIPAP
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2105-12-13 06:06:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2105-12-12**] 05:00 PM
 NON-INVASIVE VENTILATION - STOP [**2105-12-12**] 06:33 PM
     * stable overnight
     * awaiting stool/CDiff sample to dose flagyl (diarrhea currently
       resolved)
     * bowel regimen d/c
   Allergies:
   Cefaclor
   Increased Heart
   Last dose of Antibiotics:
   Levofloxacin - [**2105-12-11**] 10:10 AM
   Vancomycin - [**2105-12-12**] 08:03 AM
   Piperacillin/Tazobactam (Zosyn) - [**2105-12-13**] 05:57 AM
   Infusions:
   Morphine Sulfate - 1 mg/hour
   Other ICU medications:
   Morphine Sulfate - [**2105-12-12**] 04:25 PM
   Heparin Sodium (Prophylaxis) - [**2105-12-13**] 05:57 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-12-13**] 06:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.6
C (96.1
   Tcurrent: 35.5
C (95.9
   HR: 107 (99 - 116) bpm
   BP: 130/83(92) {124/57(75) - 157/110(118)} mmHg
   RR: 17 (13 - 30) insp/min
   SpO2: 87%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
             Total In:
                                                                  2,094 mL
                                                                    167 mL
   PO:
             TF:
   IVF:
                                                                  2,094 mL
                                                                    167 mL
   Blood products:
   Total out:
                                                                  1,490 mL
                                                                    385 mL
   Urine:
                                                                  1,490 mL
                                                                    385 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    604 mL
                                                                   -218 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 899 (497 - 899) mL
   PS : 15 cmH2O
   RR (Spontaneous): 11
   PEEP: 10 cmH2O
   FiO2: 70%
   PIP: 26 cmH2O
   SpO2: 87%
   ABG: ////
   Ve: 4.2 L/min
   Physical Examination
   Gen: Awake and alert, answering all questions appropriately, able to
   speak in [**3-1**] word sentences, states she is breathing much better today,
   thought Q4h nebs improved breathing
   HEENT: NC AT facemask on highflow oxygen in place
   CV: unable to auscultate over lung sounds
   Lungs: diffuse wheezing, inspiratory and expiratory. Prolong expiratory
   phase.
   Abd: obese, multiple old surgical scars, no tenderness, BS+
   Ext: no significant edema, no clubbing or cyanosis, 2+ DP and radial
   pulses B/L
   Labs / Radiology
   353 K/uL
   10.7 g/dL
   118 mg/dL
   0.8 mg/dL
   34 mEq/L
   4.3 mEq/L
   18 mg/dL
   98 mEq/L
   140 mEq/L
   32.2 %
   45.8 K/uL
        [image002.jpg]
                             [**2105-12-5**]  02:50 AM
                             [**2105-12-5**]  06:32 AM
                             [**2105-12-6**]  05:00 AM
                            [**2105-12-7**]  03:29 AM
                            [**2105-12-8**]  04:35 AM
                            [**2105-12-8**]  12:09 PM
                            [**2105-12-9**]  03:11 AM
                            [**2105-12-10**]  02:30 AM
                            [**2105-12-11**]  05:40 AM
                            [**2105-12-12**]  05:09 AM
   WBC
   39.0
   33.5
   29.5
   29.7
   33.5
   40.9
   44.1
   45.8
   Hct
   34.1
   30.7
   29.2
   31.1
   31.5
   30.2
   29.6
   32.2
   Plt
   355
   327
   325
   335
   333
   334
   354
   353
   Cr
   1.6
   1.3
   1.0
   0.9
   0.8
   0.9
   0.9
   0.8
   TropT
   0.21
   0.07
   TCO2
   27
   36
   Glucose
   156
   116
   96
   97
   127
   111
   128
   118
   Other labs: PT / PTT / INR:14.3/32.5/1.2, CK / CKMB /
   Troponin-T:276/5/0.07, Differential-Neuts:96.0 %, Band:1.0 %, Lymph:0.0
   %, Mono:1.0 %, Eos:1.0 %, Ca++:9.6 mg/dL, Mg++:2.0 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   A/P: Mrs. [**Known lastname 1930**] is a 64 yo F with PMH of COPD, stage III non small
   cell lung cancer undergoing chemotherapy outpatient who presented with
   hypoxic respiratory failure likely [**2-28**] post obstructive pneumonia.
   Patient with a Hx of MRSA and pseudomonas pneumonia.
   # Hypoxic Respiratory failure
 Patient is now BiPAP dependent.
   Worsening respiratory status likely [**2-28**] expansion of underlying lung
   tumor more than post obstructive pneumonia as seen on CT scan.  She has
   made relatively little progress despite antibiotic therapy and has been
   afebrile throughout her hospital stay.  Rad onc consulted regarding
   potential XRT of tumor, but they do not feel that she can receive any
   more radiation to that area.  IP consulted regarding possible
   interventions, but they do not feel she is a candidate for further
   stenting or other interventions based on chest CT.  Team has been in
   e-mail contact with her oncologist Dr. [**Last Name (STitle) 1932**] regarding her status and
   possibility of further treatment.  After discussing these consults and
   the results of the chest CT, the patient
s primary goals now are for
   comfort.  Palliative care team on board.
   -continue broad spectrum abx Vancomycin, Zosyn, Levaquin; likely poor
   lung penetration due to mass obstruction, though may decompensate more
   quickly if antibiotics are withdrawn
   -continue with home regimen of advair, spiriva, xopenex,  Q4h nebs
   - continue with IV steroids for now as pt has been on and off bipap
   - continue bipap or face mask as tolerated
   - continue to assess patient comfort as a goal of treatment; titrate up
   morphine to relieve air hunger as needed
   - f/u blood cx
   #Non-small cell lung ca - she has metal stent in place to open up
   obstruction caused by the tumor.  Getting chemo currently, due for next
   chemo [**12-17**].  Discussing chemo options with Dr. [**Last Name (STitle) 1932**], but further
   therapy may not be an option for her given her advanced state.
   .
   #NSTEMI - most likely [**2-28**] demand ischemia in the setting of severe
   hypoxia and early sepsis.   Cardiac enzymes mildly elevated at 0.21,
   now decreased.
   -ASA 325mg
   -Continue atorvastatin
   -hold off on BB, given hypotension and COPD
   -lipitor 80mg daily
   #Elevated WBC  - stable. likely [**2-28**] steroids vs. infection.  UCx
   negative, blood cultures pending, sputum not available (pt not
   producing).  Pt was having diarrhea, now resolved.  Will wait to add
   flagyl if diarrhea resumes or stool + C. diff.
   - continue to trend WBCs and monitor cultures for infection
   #Depression
 continue Zoloft and effexor (renally dose).
   - SW consult as per patient request/palliative care recommendations.
   #Prophylaxis: SC heparin
 pt is willing to take now, Famotidine, bowel
   reg if needed
   #FEN: IVF if unable to tolerate POs due to mask.  Continue maintenance
   fluids.
   #Code Status: DNR/DNI.  Palliative care and SW following.  Continuing
   to address goals of care and patient requests.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2105-12-5**] 02:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2105-12-13 09:33:00 Physician Attending Progress Note
Chief Complaint: resp distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: 64 yr old with advanced lung Ca
   [**21**] Hour Events:
 NON-INVASIVE VENTILATION - START [**2105-12-12**] 05:00 PM
 NON-INVASIVE VENTILATION - STOP [**2105-12-12**] 06:33 PM
   Needed BIPAP overnight, increased work off NIPPV this AM with profound
   respiratory distress. Required going back on BIPAP but still in
   distress. Given  Lasix and prn Morphine  uptitrated in an effort to
   ease dyspnea.
   Allergies:
   Cefaclor
   Increased Heart
   Last dose of Antibiotics:
   Levofloxacin - [**2105-12-11**] 10:10 AM
   Piperacillin/Tazobactam (Zosyn) - [**2105-12-13**] 05:57 AM
   Vancomycin - [**2105-12-13**] 08:35 AM
   Infusions:
   Morphine Sulfate - 2 mg/hour
   Other ICU medications:
   Morphine Sulfate - [**2105-12-12**] 04:25 PM
   Heparin Sodium (Prophylaxis) - [**2105-12-13**] 05:57 AM
   Furosemide (Lasix) - [**2105-12-13**] 07:06 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Dyspnea
   Flowsheet Data as of  [**2105-12-13**] 09:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 36.1
C (96.9
   HR: 113 (100 - 121) bpm
   BP: 138/81(94) {124/57(75) - 157/110(118)} mmHg
   RR: 14 (13 - 30) insp/min
   SpO2: 91%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
             Total In:
                                                                  2,094 mL
                                                                    406 mL
   PO:
             TF:
   IVF:
                                                                  2,094 mL
                                                                    406 mL
   Blood products:
   Total out:
                                                                  1,490 mL
                                                                  1,235 mL
   Urine:
                                                                  1,490 mL
                                                                  1,235 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    604 mL
                                                                   -829 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 500 (497 - 899) mL
   PS : 15 cmH2O
   RR (Spontaneous): 16
   PEEP: 10 cmH2O
   FiO2: 80%
   PIP: 26 cmH2O
   SpO2: 91%
   ABG: ////
   Ve: 7.7 L/min
   Physical Examination
   Gen: sitting up in bed, on BIPAP, significant resp distress,
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Respiratory / Chest: (diffuse expiratory rales and wheezes, abdominal
   end exp rounding
   Abd: obese distended +BS
   Skin:  warm
   Neurologic: Responds to voice, unable to speak more than 1 word
   Labs / Radiology
   10.7 g/dL
   353 K/uL
   118 mg/dL
   0.8 mg/dL
   34 mEq/L
   4.3 mEq/L
   18 mg/dL
   98 mEq/L
   140 mEq/L
   32.2 %
   45.8 K/uL
        [image002.jpg]
                             [**2105-12-5**]  02:50 AM
                             [**2105-12-5**]  06:32 AM
                             [**2105-12-6**]  05:00 AM
                            [**2105-12-7**]  03:29 AM
                            [**2105-12-8**]  04:35 AM
                            [**2105-12-8**]  12:09 PM
                            [**2105-12-9**]  03:11 AM
                            [**2105-12-10**]  02:30 AM
                            [**2105-12-11**]  05:40 AM
                            [**2105-12-12**]  05:09 AM
   WBC
   39.0
   33.5
   29.5
   29.7
   33.5
   40.9
   44.1
   45.8
   Hct
   34.1
   30.7
   29.2
   31.1
   31.5
   30.2
   29.6
   32.2
   Plt
   355
   327
   325
   335
   333
   334
   354
   353
   Cr
   1.6
   1.3
   1.0
   0.9
   0.8
   0.9
   0.9
   0.8
   TropT
   0.21
   0.07
   TCO2
   27
   36
   Glucose
   156
   116
   96
   97
   127
   111
   128
   118
   Other labs: PT / PTT / INR:14.3/32.5/1.2, CK / CKMB /
   Troponin-T:276/5/0.07, Differential-Neuts:96.0 %, Band:1.0 %, Lymph:0.0
   %, Mono:1.0 %, Eos:1.0 %, Ca++:9.6 mg/dL, Mg++:2.0 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RASH
 DIARRHEA
 .H/O CANCER (MALIGNANT NEOPLASM), LUNG
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 HEART FAILURE (CHF), SYSTOLIC, ACUTE
 RASH
 .H/O CANCER (MALIGNANT NEOPLASM), LUNG
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 HEART FAILURE (CHF), SYSTOLIC, ACUTE
   64 yo female with lung cancer--recurrent on right side--and now with
   progression of tumor size and smaller component of post obstructive
   pneumonia which has led to a persistent respiratory compromise.  She
   has had extensive evaluation by radiation oncology and interventional
   pulmonary with no further specific palliative interventions available.
 CANCER (MALIGNANT NEOPLASM), LUNG--Extensive consideration of
   therapeutic options available.
   -Palliative care involved. Patient has stated clear goals of wanting to
   avoid pain and dyspnea
she would not want intubation or mechanical
   ventilation.  She has a goal of home if she could be fully supported
   there but this is not realistic.
   Given her severe decline overnight, she is now BIPAP dependent. DDx is
   fluid overload or evlocing post obstructive PNA.
   Other than ABX and ventilatory support there is no other intervention
   we can offer her at present. Her situation is very tenuous
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   Continue steroids (IV), nebs, and non invasive ventilatory support.
   Post OBs Pneumonia-Vanco/Levoquin, Zosyn to continue but
   Leukocytosis: rising [**Last Name (un) 2226**] DDX is worsening post obs PNA versus repeat C
   diff. Diarrhea has actually stopped so did not get empiric Flagyl but I
   would add today, pan culture.
   ICU Care
   Nutrition: NPO on BIPAP
   Glycemic Control:
   Lines:
   20 Gauge - [**2105-12-5**] 02:00 AM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer: PPI
   Communication:  with pt await family arrival to discuss further
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill